US05610144
tert-Butyl 3-aminophenylmethyleneaminooxyacetate may be obtained as follows: 0.75 g of platinum oxide is added to a solution of 7.5 g of tert-butyl 3-nitrophenylmethyleneaminooxyacetate in 100 cm3 of ethanol. The suspension is stirred for 1 hour at a temperature in the vicinity of 20° C. under a hydrogen atmosphere (130 kPa). The catalyst is separated by filtration and the filtrate is concentrated to dryness under reduced pressure at 45° C. The residue is dissolved in 50 cm3 of ethyl acetate and the organic phase is washed with 50 cm3 of water, dried over magnesium sulphate and concentrated under reduced pressure. 6.2 g of tert-butyl 3-aminophenylmethyleneaminooxyacetate are thus obtained in the form of an oil, used as it is in subsequent syntheses.

reactant | tert-butyl 3-nitrophenylmethyleneaminooxyacetate | 7.5 g | [N+](=O)([O-])C=1C=C(C=CC1)C=NOCC(=O)OC(C)(C)C | C13H16N2O5
solvent | ethanol | 100 cm3 | C(C)O | C2H6O
catalyst | platinum oxide | 0.75 g | [Pt]=O
product | tert-butyl 3-aminophenylmethyleneaminooxyacetate | 6.2 g | NC=1C=C(C=CC1)C=NOCC(=O)OC(C)(C)C | C13H18N2O3
